US06518423B1
8-[3-(1-Imidazolyl)-1-propyl]-10H-pyrazino[2,3-b][1,4]benzothiazine
Similar to Example 1094, 3-[10-methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazin-8-yl]propyl methanesulfonate was reacted with imidazole and then treated by the same method as the one of Example 434 to thereby give the following compound.

reactant | 3-[10-methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazin-8-yl]propyl methanesulfonate | CS(=O)(=O)OCCCC=1C=CC2=C(N(C3=C(S2)N=CC=N3)COC)C1 | C16H19N3O4S2
reactant | imidazole | N1C=NC=C1 | C3H4N2
product | 8-[3-(1-Imidazolyl)-1-propyl]-10H-pyrazino[2,3-b][1,4]benzothiazine | N1(C=NC=C1)CCCC=1C=CC2=C(NC3=C(S2)N=CC=N3)C1 | C16H15N5S
